US05025009
5-(2-fluorophenyl)-7-hydroxy-3-methyl-8-nitro-2,3,4,5-tetrahydro-1H-3-benzazepine
5.0 g 5-(2-fluorophenyl)-7-hydroxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine was dissolved in 90 ml of a mixture of acetic acid and cooled in ice-water bath 0° C. Under stirring was added 1,7 ml fuming nitric acid and the mixture was stirred in the cold for 1 h. The reaction mixture was neutralized (pH 7.9) and the precipitate was extracted with ethyl acetate, dried and evaporated. After column chromatography (kieselgel/CH2Cl2 : CH3OH 95: 5) was isolated yellow crystals. M.p. 90°-94° C. (dec). NMR: C5H 4.61d; C6H g 41% 6 s and C9H 7.88 s ppm. respectively.

reactant | 5-(2-fluorophenyl)-7-hydroxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 5.0 g | FC1=C(C=CC=C1)C1CN(CCC2=C1C=C(C=C2)O)C | C17H18FNO
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(2-fluorophenyl)-7-hydroxy-3-methyl-8-nitro-2,3,4,5-tetrahydro-1H-3-benzazepine | FC1=C(C=CC=C1)C1CN(CCC2=C1C=C(C(=C2)[N+](=O)[O-])O)C | C17H17FN2O3
